US09227985B2
A mixture of 4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (400 mg, 2 mmol) and N-bromosuccinimide (310 mg, 1.7 mmol) in AcOH (10 mL) was stirred at room temperature for 2 h. The reaction mixture was allowed to cool and was concentrated to remove AcOH. The residue was taken up in EtOAc and was washed with water saturated NaHCO3, brine, dried over magnesium sulfate, filtered and concentrated to give crude product. The product was purified by flash column chromatography on a Biotage system eluting with a hexane: EtOAc gradient (0-40%) to give 7-bromo-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one as an amber oil (0.30 g, 60%). LCMS calc. for C15H12BrN2O2 (M+H)+: m/z=331.1, 333.1. found: 331.0, 333.0. 1H NMR (300 MHz, CD3OD) δ 7.42-7.23 (m, 3H), 7.23-7.09 (m, 3H), 6.70 (d, J=8.4 Hz, 1H), 5.46 (dd, J=2.6 Hz, 1H), 4.66 (dd, J=11.6, 2.4 Hz, 1H), 4.47 (dd, J=11.6, 3.1 Hz, 1H).

reactant | 4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 2 mmol, 400 mg | C1(=CC=CC=C1)C1COC2=C3N1C(NC3=CC=C2)=O | C15H12N2O2
reactant | N-bromosuccinimide | 1.7 mmol, 310 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 7-bromo-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 0.30 g, 60% | BrC1=CC=C2C=3N(C(COC31)C3=CC=CC=C3)C(N2)=O | C15H11BrN2O2
